Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Shellfish Derived
 
Attending: ___
 
Chief Complaint:
Abnormal labs,acute renal failure

 
Major Surgical or Invasive Procedure:
US guided renal biopsy 

 
History of Present Illness:
___ yo female with history of HTN, chronic HBV, osteoporosis
referred from primary care doctor for work up of acute renal
failure.

She was referred due rising creatnine, proteinuria, anemia on
labs; she feels well. Her labs were at baseline in ___ with
cr of 0.8 and Hg 12.9; routine labs in ___ showed cr of 1.2,
and Hg 10.6. At this point, she was told to hydrate and return
for repeat testing in 1 month, at which point cr rose to 1.8,
spot prtn:cr 3, albumin:cr ___.8.  

In the ED, initial VS were: 97.0 74 144/65 17 98% RA 
Exam notable for: unremarkable
ECG: none
Labs showed: BUN/Cr ___, BMP lytes otherwise wnl, H/H
10.___.2
Imaging showed: none
Consults: renal, will see in am
Patient received: nothing
Transfer VS were: 98.1 65 144/62 16 98% RA 

On arrival to the floor, patient reports she feels well. She 
eats
regularly and has good hydration. She is generally adherent to
her antihypertensive, misses 1/week (skipped am ___

Denies shortness of breath, lower extremity edema. No recent 
sore
throat or upper respiratory symptoms, hemoptysis, recent rashes
or skin changes, joint swelling or pain. No melena, 
hematochezia,
hematuria, last ___ ___ with one polyp. She is urinating well,
denies hematuria, frothy urine, back pain, history of kidney
stones.  

She does occasionally use motrin, about twice per month. She
never has used this heavily. No PPI use. She has chronic
hepatitis B, never on medication, thought to be vertically
transmitted at birth. Her hypertension is longstanding but
well-controlled per patient.

 
Past Medical History:
chronic hepatitis B (she believes vertically transmitted)
hypertension
osteoporosis
asthma

 
Social History:
___
Family History:
Went into foster care at an early age, does not know parent's
health. Has five daughters who are healthy and wihtout kidney
problems or rheumatologic issues.

 
Physical Exam:
ADMISSION EXAM:
================
VS: 98.4 PO 151 / 70 L Sitting 64 18 99 Room Air 
GENERAL: NAD, pleasant
HEENT: AT/NC, anicteric sclera, MMM
CV: RRR, soft systolic ejection murmur best appreciated at ___,
no gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric, no tremors
DERM: warm and well perfused, no lesions, no rashes

DISCHARGE EXAM:
=================
VS: 98.4 PO 151 / 70 L Sitting 64 18 99 Room Air 
GENERAL: NAD, pleasant
HEENT: AT/NC, anicteric sclera, MMM
CV: RRR, soft systolic ejection murmur best appreciated at ___,
no gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric, no tremors
DERM: warm and well perfused, no lesions, no rashes

 
Pertinent Results:
___ 07:20AM BLOOD WBC-4.8 RBC-3.61* Hgb-10.9* Hct-33.6* 
MCV-93 MCH-30.2 MCHC-32.4 RDW-15.4 RDWSD-53.0* Plt ___
___ 07:20AM BLOOD Glucose-91 UreaN-19 Creat-1.4* Na-147 
K-4.7 Cl-111* HCO3-21* AnGap-15
___ 08:45PM BLOOD ALT-17 AST-24 AlkPhos-45 TotBili-0.2
___ 08:00AM BLOOD Calcium-9.2 Phos-4.1 Mg-2.4 Iron-68 
Cholest-239*
___ 08:00AM BLOOD calTIBC-289 Ferritn-167* TRF-222
___ 08:00AM BLOOD Triglyc-131 HDL-76 CHOL/HD-3.1 
LDLcalc-137*
___ 08:00AM BLOOD FreeKap-37.8* ___ Fr K/L-2.1*
___ 08:45PM BLOOD C3-119 C4-33
___ 05:28PM BLOOD HIV Ab-NEG
___ 05:28PM BLOOD HCV Ab-NEG
 
Brief Hospital Course:
___ F with hx of HTN, Chronic HBV, osteoporosis presenting for
workup of acute renal failure with proteinuria and albuminuria. 

#acute renal failure
#proteinuria 
#chronic HBV, HBeAB+
Pt with acute rise in Cr. from 0.8 to 1.8 in the past 6 months
with a 1.2 to 1.8 rise in the past 4 weeks. Urinalysis
significant for trace blood on UA and elevated Prot/Cr 3.0 and
___ ___.8. Creatinine 1.3 this morning. Other than her 
rise
in creatinine she has no other electrolyte disturbances and is
euvolemic on exam. Because of her proteinuria, nephrotic causes
of kidney injury are most likely including membranous
nephropathy, which can be a sequela of Hep B, minimal change
disease or FSGS. Other etiologies include nephritic causes which
include RPGN but less likely since pt's creatinine is not 
acutely
increasing and has actually improved over the past 24 hours.
Acute poststreptococcal glomerulonephritis is also less likely
given pt denies any recent infection.  Less likely are 
iatrogenic
causes given she does not take nephrotoxic medication. Other
possibilities include a neoplastic process. 

her workup was notable for a negative HIV, HCV, UPEP, normal 
C3/C4.  She underwent a renal biopsy on ___, results to be 
followed up by nephrology.  Her ___, anti-DSDNA, ANCA, Anti-GBM, 
Anti-streptolysin O, kappa/lambda and SPEP were PENDING on 
discharge. 

#chronic congenital HBV, HBeAB+
Viral load is 2.8, elevated since ___. Normal LFTs. She last 
saw
her Hepatologist in ___ who does not think she needed acute
treatment. 

#normocytic anemia
Reticulocytes appropriately elevated with borderline high RDW.
Normal iron, TIBC, transferrin. Elevated ferritin likely
reflective of anemia of chronic disease.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO 1X/WEEK (___) 
2. Montelukast 10 mg PO DAILY 
3. amLODIPine 10 mg PO DAILY 
4. ProAir RespiClick (albuterol sulfate) 90 mcg/actuation 
inhalation Q6H:PRN 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 

 
Discharge Medications:
1. Alendronate Sodium 70 mg PO 1X/WEEK (___) 
2. Montelukast 10 mg PO DAILY 
3. amLODIPine 10 mg PO DAILY 
4. ProAir RespiClick (albuterol sulfate) 90 mcg/actuation 
inhalation Q6H:PRN 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute renal failure
anemia of chronic disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear ___ was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- Lab tests that measure how well your kidney works were 
abnormal and your doctors were concerned that something was 
damaging your kidneys.
- The number of red blood cells in your blood is lower than 
normal.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- In the hospital, multiple laboratory tests were done to figure 
out what could be damaging your kidneys. 
- Tests were also done to find out why your red blood cell count 
was low.  
- A sample of your kidney tissue was obtained so that doctors 
___ at it under a microscope.  

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  
 ========================  

 
Followup Instructions:
___